US07824745B2
16.6 g (78.5 mmol) of methyl 2-oxo-5-propylcyclohexanecarboxylate, 7.65 g (69.5 mmol) of resorcinol and 5.6 ml (6.1 mmol) of phosphoryl chloride are dissolved in 55 ml of toluene, and the mixture is heated under reflux for 3 h. After hydrolysis using water, the deposited precipitate is filtered off with suction, washed with toluene and dried. The product is dissolved in 200 ml of acetone, 20 g (145 mmol) of potassium carbonate and 9.00 g (57.7 mmol) of ethyl iodide are added, and the mixture is heated under reflux for 5 h. The majority of the solvent is removed under reduced pressure, and the residue is taken up in MTB ether/water. The aqueous phase is separated off and extracted with MTB ether. The combined organic phases are washed with water and dried over sodium sulfate. The solvent is removed under reduced pressure, and the crude product is recrystallised from ethanol, giving 3-ethoxy-8-propyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one as colourless crystals. The melting point is 108° C. The other physical properties are: Δ∈=−7.5 (extrapolated from 5% solution in ZLI-2857), Δn=0.1302 (5% in ZLI-4792).

reactant | methyl 2-oxo-5-propylcyclohexanecarboxylate | 78.5 mmol, 16.6 g | O=C1C(CC(CC1)CCC)C(=O)OC | C11H18O3
reactant | resorcinol | 69.5 mmol, 7.65 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | phosphoryl chloride | 6.1 mmol, 5.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | 145 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 57.7 mmol, 9.00 g | C(C)I | C2H5I
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-ethoxy-8-propyl-7,8,9,10-tetrahydrobenzo[c]chromen-6-one | C(C)OC1=CC=C2C3=C(C(OC2=C1)=O)CC(CC3)CCC | C18H22O3
